US04511391
Propionic anhydride (30 ml) was added cautiously to freshly prepared sodium methoxide (0.3 g). On completion of the reaction 3-hydroxy-5-(3,4-methylenedioxyphenyl)cyclohex-2-en-1-one (5.0 g) was added and the reaction mixture was heated at 160° C. for a period of 75 minutes. The excess propionic anhydride was removed by distillation under reduced pressure. Aqueous 3M potassium hydroxide was added to the residue and the mixture was heated under reflux for a period of 3 hours. The reaction mixture was cooled, poured into water (100 ml) and acidified with dilute hydrochloric acid. The aqueous mixture was extracted with diethyl ether, the organic phase was washed with water, dried over anhydrous sodium sulfate, and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluant dichloromethane) to give 3-hydroxy-5-(3,4-methylenedioxyphenyl)-2-propionylcyclohex-2-en-1-one as a crystalline solid, mp 129° C.

reactant | sodium methoxide | 0.3 g | C[O-].[Na+]
reactant | 3-hydroxy-5-(3,4-methylenedioxyphenyl)cyclohex-2-en-1-one | 5.0 g | OC1=CC(CC(C1)C1=CC2=C(C=C1)OCO2)=O | C13H12O4
reactant | Propionic anhydride | 30 ml | C(CC)(=O)OC(CC)=O | C6H10O3
product | 3-hydroxy-5-(3,4-methylenedioxyphenyl)-2-propionylcyclohex-2-en-1-one | OC1=C(C(CC(C1)C1=CC2=C(C=C1)OCO2)=O)C(CC)=O | C16H16O5
